US04382951
(b) 1-Bromo-6,6-dimethyl-2-hepten-4-yne
50 ml 48% HBr and 10 g PBr3 are stirred to homogeneity at 40°. An alcoholic solution of 13.5 g of 6,6-dimethyl-hept-1-en-4-yn-3-ol is then added dropwise at 10° and the resulting mixture stirred at room temperature for 11/2 hours. The reaction mixture is poured onto ice-water and repeatedly extracted with hexane. The organic phase is separated, washed repeatedly with aqueous NaCl, dried and concentrated on a rotary evaporator. NMR spectroscopy reveals that the resulting oily reaction product comprises a 3:1 mixture of trans- and cis-1-bromo-6,6-dimethyl-hept-2-en-4-yne which is employed directly in further alkylation.

reactant | PBr3 | 10 g | P(Br)(Br)Br | Br3P
reactant | 6,6-dimethyl-hept-1-en-4-yn-3-ol | 13.5 g | CC(C#CC(C=C)O)(C)C | C9H14O
solvent | HBr | 50 ml | Br | BrH
product | 1-Bromo-6,6-dimethyl-2-hepten-4-yne | BrCC=CC#CC(C)(C)C | C9H13Br
